US06982348B2
To a solution of 3-tert-butylphenol (15 g, 100 mmol) in dichloromethane (300 ml) were added N-ethyldiisopropylamine (17.5 ml, 100 mmol) and N-phenyltrifluoromethanesulfonimide (44.7 g, 125 mmol), and the mixture was stirred overnight at room temperature. Dichloromethane was evaporated under reduced pressure. The mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to give 3-tert-butylphenyl trifluoromethanesulfonate (7.17 g, 25%) as a colorless transparent oil.

reactant | 3-tert-butylphenol | 100 mmol, 15 g | C(C)(C)(C)C=1C=C(C=CC1)O | C10H14O
reactant | N-ethyldiisopropylamine | 100 mmol, 17.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-phenyltrifluoromethanesulfonimide | 125 mmol, 44.7 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3-tert-butylphenyl trifluoromethanesulfonate | 7.17 g, 25% | FC(S(=O)(=O)OC1=CC(=CC=C1)C(C)(C)C)(F)F | C11H13F3O3S
